US09303040B2
LHMDS (1.0 M solution in THF, 13.1 mL, 13.1 mmol) was added dropwise at −78° C. under nitrogen to a stirred solution of methyl 2-(4-chlorophenyl)acetate (2.20 g, 11.9 mmol) in THF (40 mL). The resulting solution was stirred at −78° C. for 1 hour. A solution of 2-bromoacetonitrile (2.50 g, 20.9 mmol) in THF (16 mL) was added dropwise. The reaction was stirred at −78° C. for 1 hour. The reaction was then warmed to room temperature and stirred overnight. The reaction was then quenched with 1N HCl. The mixture was extracted with EtOAc. The combined organic layers were washed with brine, dried and concentrated. The residue was purified by column chromatography (hexanes: EtOAc, 4:1) to give methyl 2-(4-chlorophenyl)-3-cyanopropanoate (2.60 g, 98%) as a white solid. A solution of EtMgBr in THF (1.0 M, 8.0 mL, 8.0 mmol) was added dropwise at room temperature to a stirred solution of this methyl 2-(4-chlorophenyl)-3-cyanopropanoate (0.894 g, 4.00 mmol) and Ti(i-PrO)4 (1.30 mL, 4.40 mmol) in Et2O (20 mL). After the mixture was stirred at room temperature for 1 hour, water (4 mL) was added, followed by DCM (100 mL). The resulting precipitate was filtered and washed with DCM. The combined filtrates were dried and concentrated. The residue was purified by column chromatography (hexanes:EtOAc, 1:1) to give 6-(4-chlorophenyl)-4-azaspiro[2.4]heptan-5-one (0.330 g, 37%) as a white solid. LCMS (APCI+) [M-Boc+H]+ 222.2; Rf: 2.44 min.

reactant | LHMDS | 13.1 mmol, 1.0 M, 13.1 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methyl 2-(4-chlorophenyl)acetate | 11.9 mmol, 2.20 g | ClC1=CC=C(C=C1)CC(=O)OC | C9H9ClO2
reactant | 2-bromoacetonitrile | 20.9 mmol, 2.50 g | BrCC#N | C2H2BrN
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-chlorophenyl)-3-cyanopropanoate | 2.60 g, 98% | ClC1=CC=C(C=C1)C(C(=O)OC)CC#N | C11H10ClNO2
